US05362733
4- [(3,4-Dihydroxy-5-nitrophenyl)methylidene]-2,5-imidazolidindione
A solution containing 0.65 g of hydantoin, 0.92 g of 3,4-dihydroxy-5-nitrobenzaldehyde and 0.15 g of ammonium acetate in 15 ml of acetic acid was refluxed overnight. The product was filtered and washed with acetic acid and 2-propanol. Yield 0.56 g (42%), mp>350° C.

reactant | hydantoin | 0.65 g | N1C(=O)NC(=O)C1 | C3H4N2O2
reactant | 3,4-dihydroxy-5-nitrobenzaldehyde | 0.92 g | OC=1C=C(C=O)C=C(C1O)[N+](=O)[O-] | C7H5NO5
reactant | ammonium acetate | 0.15 g | C(C)(=O)[O-].[NH4+]
solvent | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
product | 4- [(3,4-Dihydroxy-5-nitrophenyl)methylidene]-2,5-imidazolidindione | OC=1C=C(C=C(C1O)[N+](=O)[O-])C=C1NC(NC1=O)=O | C10H7N3O6
